US04360680
3-Amino-5-(3,4-dichlorophenyl)-1-phenyl-2-pyrazoline
A 0.10 g. amount of sodium metal is dissolved in 25.0 ml. of absolute ethanol, then 2.16 g. of phenylhydrazine is added, followed in 5 minutes by 3.96 g. of 3,4-dichlorocinnamonitrile. The reaction mixture is refluxed for 5 hours, then is evaporated to dryness in vacuo. The procedure, as described in Example 15, is continued with a second recrystallization from the same solvent pair and treatment with a hydrous magnesium silicate to give 1.35 g. of the desired product as colorless needles, m.p. 150°-151.5° C.

reactant | sodium | [Na] | Na
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | 3,4-dichlorocinnamonitrile | ClC=1C=C(C=CC#N)C=CC1Cl | C9H5Cl2N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-5-(3,4-dichlorophenyl)-1-phenyl-2-pyrazoline | NC1=NN(C(C1)C1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C15H13Cl2N3
